US07632829B2
(rac)-7-Methyl-[1,4]diazepan-5-one
A mixture of 7-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester (201 mg, 0.77 mmol) and palladium (10% on activated charcoal, 80 mg) in ethanol (2 ml) was stirred at room temperature under a hydrogen atmosphere (3 bar). After 20 h, the catalyst was removed by filtration and the filtrate evaporated to afford the title compound (81 mg, 82%). White solid,

reactant | 7-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | 0.77 mmol, 201 mg | C(C1=CC=CC=C1)OC(=O)N1CCNC(CC1C)=O | C14H18N2O3
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | palladium | 80 mg | [Pd] | Pd
product | (rac)-7-Methyl-[1,4]diazepan-5-one | 81 mg, 82% | CC1CC(NCCN1)=O | C6H12N2O
